US07772238B2
Ethyl 6-bromo-1-benzothiophene-2-carboxylate.
Sodium hydride (60% dispersion in mineral oil, 0.73 g, 18.3 mmol) was suspended in DMSO (10 mL) and ethyl mercaptoacetate (1.111 mL, 10.1 mmol) was added potionwise using a water bath to moderate the exotherm. On complete addition, the water bath was removed and stirring continued for 15 minutes. A solution of 4-bromo-2-fluorobenzaldehyde (1.86 g, 9.16 mmol) in DMSO (2 mL) was added in one portion. The dark solution was stirred for 15 minutes before pouring into cold water (300 mL). The products were extracted into Et2O (2×200 mL). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by MPLC gave 1.15 g of desired product (pale yellow solid, 44%). 1H NMR (DMSO-d6) δ 8.37 (d, J=1.8 Hz, 1H), 8.17 (s, 1H), 7.94 (d, J=8.4 Hz, 1H), 7.60 (dd, J=8.4, 1.8 Hz, 1H), 4.32 (q, J=7.2 Hz, 2H), 1.30 (t, J=7.2 Hz, 3H).

reactant | Sodium hydride | 18.3 mmol, 0.73 g | [H-].[Na+]
reactant | ethyl mercaptoacetate | 10.1 mmol, 1.111 mL | SCC(=O)OCC | C4H8O2S
reactant | 4-bromo-2-fluorobenzaldehyde | 9.16 mmol, 1.86 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | water | 300 mL | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | Ethyl 6-bromo-1-benzothiophene-2-carboxylate | 1.15 g, 44% | BrC1=CC2=C(C=C(S2)C(=O)OCC)C=C1 | C11H9BrO2S
